US08877739B2
Synthesis of N5-(4-hydroxy-3-sulfophenyl)-L-glutamine (Compound No. 11)
Boc-Glu-OtBu (100 mg, 0.33 mmol) was dissolved in methylene chloride (1 ml) and THF (1 ml), and CDI (65 mg, 1.1 mmol) was added to the solution. The mixture was stirred for 30 minutes at room temperature. Sodium 5-amino-2-hydroxybenzenesulfonate (77 mg, 0.33 mmol) was added to the mixture and stirred overnight at room temperature. After the solvent was removed by distillation, the mixture was purified in accordance with the purification step A. The resulting intermediate was dissolved in 2 ml of TFA. After stirring for 3 hours at room temperature, the solvent was distilled off. The mixture was purified according to the purification step A to give the title compound.

reactant | Boc-Glu-OtBu | 0.33 mmol, 100 mg | N([C@@H](CCC(O)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C14H25NO6
reactant | CDI | 1.1 mmol, 65 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | Sodium 5-amino-2-hydroxybenzenesulfonate | 0.33 mmol, 77 mg | NC=1C=CC(=C(C1)S(=O)(=O)[O-])O.[Na+]
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | N5-(4-hydroxy-3-sulfophenyl)-L-glutamine | OC1=C(C=C(C=C1)NC(CC[C@H](N)C(=O)O)=O)S(=O)(=O)O | C11H14N2O7S
